US08222416B2
To a solution of 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-furan-2-yl)-ethanone (0.5 g, 1.35 mmol) in dry tetrahydrofuran (5 mL) was added lithium bis(trimethylsilyl)amide (1.0 M in tetrahydrofuran, 2 mL, 2 mmol) dropwise at −78° C. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (0.66 g, 2 mmol) in tetrahydrofuran (5 mL) was added dropwise. The resulting solution was kept at −78° C. for an additional 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (100 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 50% ethyl acetate/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-furan-2-yl)-vinyl ester (0.6 g, 84%) as a white solid: LC/MS m/e calcd for C26H24N2O6S2 [M+H]+ 525.62, observed: 525.3.

reactant | 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-furan-2-yl)-ethanone | 1.35 mmol, 0.5 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(CC2OCCC2)=O | C19H18N2O4S
reactant | lithium bis(trimethylsilyl)amide | 2 mmol, 1.0 M, 2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 2 mmol, 0.66 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-(tetrahydro-furan-2-yl)-vinyl ester | 0.6 g, 84% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2OCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C26H24N2O6S2
